US07402598B2
(vi) 4-(Benzyloxy)-7-{(1R)-2-bromo-1-[tetrahydro-2H-pyran-2-yloxy]ethyl}-1,3-benzothiazol-2(3H)-one
To a stirred solution of 4-(benzyloxy)-7-[(1R)-2-bromo-1-hydroxyethyl]-1,3-benzothiazol-2(3H)-one (31 mg) in dry DCM (5 ml) under nitrogen, was added pyridinium p-toluenesulphonate (5 mg), followed by 3,4-dihydro-2H-pyran (30 μl). The mixture was evaporated in vacuo after 18 h and purified on a 2 g silica SPE cartridge, eluting with a stepped gradient 10% to 100% DCM-cyclohexane mixtures, to give the title compound (42 mg). LCMS RT=3.72 and 3.78 min.

reactant | 4-(benzyloxy)-7-[(1R)-2-bromo-1-hydroxyethyl]-1,3-benzothiazol-2(3H)-one | 31 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(S2)=O)[C@H](CBr)O | C16H14BrNO3S
reactant | pyridinium p-toluenesulphonate | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 3,4-dihydro-2H-pyran | 30 μl | O1CCCC=C1 | C5H8O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(Benzyloxy)-7-{(1R)-2-bromo-1-[tetrahydro-2H-pyran-2-yloxy]ethyl}-1,3-benzothiazol-2(3H)-one | 42 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(S2)=O)[C@H](CBr)OC2OCCCC2 | C21H22BrNO4S
